US09102673B2
Step 1: [2-(4-Tert-butoxyphenoxy)ethoxy](tert-butyl)dimethylsilane
4-Tert-butoxyphenol (1 g, 6.02 mmole), 2-(t-butyldimethylsiloxy)ethanol (1.38 g, 7.83 mmole), and PPh3 (2.05 g, 7.82 mmole) were combined in toluene (30 mL) at RT. To this was added DIAD (1.52 mL, 7.82 mmole) slowly at RT. After stirring overnight the mixture was concentrated. Flash column chromatography (Biotage-SNAP-50 g SiO2, 0-10% EtOAc/hexanes) gave the title compound (1.7 g, 87%) as a clear oil. 1H NMR (400 MHz, CDCl3): δ 6.90 (d, J=8.8 Hz, 2 H); 6.80 (d, J=8.8 Hz, 2 H); 4.03-3.92 (m, 4 H); 1.30 (s, 9 H); 0.91 (s, 9 H); 0.10 (s, 6H).

reactant | 4-Tert-butoxyphenol | 6.02 mmole, 1 g | C(C)(C)(C)OC1=CC=C(C=C1)O | C10H14O2
reactant | 2-(t-butyldimethylsiloxy)ethanol | 7.83 mmole, 1.38 g | O([Si](C)(C)C(C)(C)C)CCO | C8H20O2Si
reactant | PPh3 | 7.82 mmole, 2.05 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 7.82 mmole, 1.52 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | [2-(4-Tert-butoxyphenoxy)ethoxy](tert-butyl)dimethylsilane | 1.7 g, 87% | C(C)(C)(C)OC1=CC=C(OCCO[Si](C)(C)C(C)(C)C)C=C1 | C18H32O3Si
